US05468742
18.8 g of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-(trimethylsilylethinyl)-4-oxo-3-quinolinecarboxylate and 9.7 g of potassium fluoride are stirred for 3 hours at room temperature in a mixture of 300 ml of dimethylformamide, 200 ml of chloroform and 15 ml of water. The mixture is then filtered, the filtrate is treated with 120 ml of water, and the mixture is acidified with dilute aqueous hydrochloric acid. After extraction by shaking with chloroform, the organic phase is dried over sodium sulphate and concentrated. The residue obtained is recrystallised from methanol. In this way, 9 g of ethyl 1-cyclopropyl-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate (59% of theory) are obtained.

reactant | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-(trimethylsilylethinyl)-4-oxo-3-quinolinecarboxylate | 18.8 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C#C[Si](C)(C)C)F)F)=O)C(=O)OCC | C20H21F2NO3Si
reactant | potassium fluoride | 9.7 g | [F-].[K+]
reactant | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
reactant | water | 15 ml | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | ethyl 1-cyclopropyl-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 9 g, 59% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C#C)F)F)=O)C(=O)OCC | C17H13F2NO3
